US05236956
N-(2-diisopropylaminoethyl)-2,2-diphenyl-2-hydroxy-acetamide hydrochloride
10 g (38 mmole) of 2-chloro-2,2-diphenylacetyl chloride were slowly added to a chilled solution of 7.6 ml 5M sodium hydroxide (38 mmole) and 5.3 g (38 mmole) of diisopropylaminoethylamine in 50 ml of methylene chloride. The temperature was kept at 0° C. with good agitation. The mixture was stirred for 1 h. The water solution was discarded and the organic layer was washed with water and dried over anhydrous sodium sulfate. The solution was evaporated to dryness and the remaining oil solidified. The product was dissolved in 2M hydrochloric acid and heated for 10 min on a steambath to hydrolyze the 2-chloro to a hydroxyl group. The solution was chilled to room temperature and was extracted with methylene chloride. The methylene chloride solution was evaporated and the product was crystallised from warm acetone.

reactant | 2-chloro-2,2-diphenylacetyl chloride | 38 mmole, 10 g | ClC(C(=O)Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C14H10Cl2O
reactant | sodium hydroxide | 38 mmole, 5M, 7.6 ml | [OH-].[Na+]
reactant | diisopropylaminoethylamine | 38 mmole, 5.3 g | C(C)(C)N(C(C)C)CCN | C8H20N2
reactant | water | O | H2O
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | N-(2-diisopropylaminoethyl)-2,2-diphenyl-2-hydroxy-acetamide hydrochloride | Cl.C(C)(C)N(CCNC(C(O)(C1=CC=CC=C1)C1=CC=CC=C1)=O)C(C)C | InChI=1S/C22H30N2O2.ClH/c1-17(2)24(18(3)4)16-15-23-21(25)22(26,19-11-7-5-8-12-19)20-13-9-6-10-14-20;/h5-14,17-18,26H,15-16H2,1-4H3,(H,23,25);1H
